US06034086
In 12 ml of pyridine were dissolved 0.8 g (0.0026 mole) of 6,7-difluoro-8-trifluoromethyl-1,4-dihydro-1-methyl-4-oxoquinoline-3-carboxylic acid and 2.1 g (0.0118 mole) of 1-(2-pyrimidinyl)homopiperazine, the mixture was stirred at 105° C. for 3 hours, and then the solvent was removed by evaporation under reduced pressure. The residue was applied to silica gel column chromatography (eluent; a chloroform:methanol=9.5:0.5 mixed solution) to obtain 0.45 g of 6-fluoro-8-trifluoromethyl-1,4-dihydro-4-oxo-1-methyl-7-[4-(2-pyrimidinyl)homopiperazin-1-yl)quinoline-3-carboxylic acid as yellow powder.

reactant | 6,7-difluoro-8-trifluoromethyl-1,4-dihydro-1-methyl-4-oxoquinoline-3-carboxylic acid | 0.0026 mole, 0.8 g | FC=1C=C2C(C(=CN(C2=C(C1F)C(F)(F)F)C)C(=O)O)=O | C12H6F5NO3
reactant | 1-(2-pyrimidinyl)homopiperazine | 0.0118 mole, 2.1 g | N1=C(N=CC=C1)N1CCNCCC1 | C9H14N4
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 6-fluoro-8-trifluoromethyl-1,4-dihydro-4-oxo-1-methyl-7-[4-(2-pyrimidinyl)homopiperazin-1-yl)quinoline-3-carboxylic acid | 0.45 g | FC=1C=C2C(C(=CN(C2=C(C1N1CCN(CCC1)C1=NC=CC=N1)C(F)(F)F)C)C(=O)O)=O | C21H19F4N5O3
